US04714492
25 g. of diethyl aminomethylenemalonate, 18 g. of phenylacetone dimethylketal, 300 ml. of dry diphenyl ether and 1.0 g. of TSA.H2O were mixed and heated under a nitrogen atmosphere at 135°-145° C. for three hours. The mixture was then brought to reflux. After 30 minutes the solution was cooled and extracted with 200 ml. of 21/2% aqueous NaOH solution. The basic extracts were acidified yielding a precipitate of ethyl 6-methyl-5-phenyl-4-oxonicotinate. Recrystallization of this material from methylene chloride/ether provided 12.3 g. of white solid, m.p.=178°-180° C.

reactant | diethyl aminomethylenemalonate | NC=C(C(=O)OCC)C(=O)OCC | C8H13NO4
reactant | phenylacetone dimethylketal | COC(C)(CC1=CC=CC=C1)OC | C11H16O2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | H2O | O | H2O
product | ethyl 6-methyl-5-phenyl-4-oxonicotinate | CC=1N=CC(C(=O)OCC)C(C1C1=CC=CC=C1)=O | C15H15NO3
